US04977155
To a solution of 0,4 g (1,8 mmol) 7,8-dihydroxy-1,2,5-thiadiazolo(3,4-f)quinoxaline in 20 ml concentrated sulfuric acid was added at 0° C. 0,19 g (1,9 mmol) potassium nitrate. Stirring was continued at 0° C. for 30 min. and at 25° C. for 24 h. The reaction mixture was poured into 100 ml ice-water to give 0,34 g (71%) 7,8-dihydroxy-4-nitro-1,2,5-thiadiazolo(3,4-f)quinoxaline as a precipitate, m.p.>300° C. NMR (DMSO-d6): 12,3 (1H, broad s), 11.6 (1H, broad s), 8.43 (1H,s).

reactant | 7,8-dihydroxy-1,2,5-thiadiazolo(3,4-f)quinoxaline | 1,8 mmol, 0,4 g | OC1=NC=2C=CC=3C(C2N=C1O)=NSN3 | C8H4N4O2S
reactant | potassium nitrate | 1,9 mmol, 0,19 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 7,8-dihydroxy-4-nitro-1,2,5-thiadiazolo(3,4-f)quinoxaline | 0,34 g, 71% | OC1=NC=2C=C(C=3C(C2N=C1O)=NSN3)[N+](=O)[O-] | C8H3N5O4S
